US09315763B2
(a) Synthesis of bis(2-phenylethyl)oxalate
Oxalyl chloride (10.2 g, 80.4 mmol) was added dropwise during 20 min to a stirred solution of 2-phenylethanol (20.0 g, 163.7 mmol) in pyridine (165 mL) at 0° C. The reaction mixture was allowed to warm to room temperature overnight. Ether was added (300 mL, 2×) and the mixture extracted with H2SO4 (10%, 300 mL, 3×), a saturated solution of NaHCO3 (300 mL, 3×) and a saturated solution of NaCl (300 mL, 2×, pH 6). The organic layer was dried (Na2SO4) and concentrated. Column chromatography (SiO2, heptane/diethyl ether 1:1) gave 20.1 g (84%) of a solid.

reactant | Oxalyl chloride | 80.4 mmol, 10.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-phenylethanol | 163.7 mmol, 20.0 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | Ether | CCOCC | C4H10O
solvent | pyridine | 165 mL | N1=CC=CC=C1 | C5H5N
product | bis(2-phenylethyl)oxalate | 20.1 g, 84% | C1(=CC=CC=C1)CCOC(C(=O)OCCC1=CC=CC=C1)=O | C18H18O4
